spice
* NMOS Transistor M1
M1 2 6 7 7 NMOS
* PMOS Transistor M2
M2 23 2 22 22 PMOS
* Current Source
? Missing component
* Resistors
RD VDD 2 1k
RF 6 0 1k
RF 5 0 1k
RM 7 0 1k
RM 5 0 1k
RL 23 22 1k
rO2 22 Iout 1k
* Voltage supply
VDD VDD 0 DC 5V
* End of netlist
.end
